US05332857
Methyl (E,E)-8-(8,9-Dihydro-6H, 7H-benzocyclo-hepten-5-ylidene)-5-hydroxy-3-oxo- 6-octenoate
By the method of Example 1 (E,E)-4-(8,9-Dihydro-6H,7H-benzocyclohepten-5-ylidene)-2-butenal (0.9 g, 4.2 mmol) was reacted with methyl acetoacetate to produce title product, 0.9 g.

reactant | (E,E)-4-(8,9-Dihydro-6H,7H-benzocyclohepten-5-ylidene)-2-butenal | 4.2 mmol, 0.9 g | C1=CC=CC\2=C1CCCC/C2=C\C=C\C=O | C15H16O
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
product | Methyl (E,E)-8-(8,9-Dihydro-6H, 7H-benzocyclo-hepten-5-ylidene)-5-hydroxy-3-oxo- 6-octenoate | C1=CC=CC\2=C1CCCC/C2=C\C=C\C(CC(CC(=O)OC)=O)O | C20H24O4
